### PR TITLE
[Merged by Bors] - style: fix whitespace

### PR DESCRIPTION
**Pull request by grunweg**
Found by extending the whitespace linter to proof bodies in #30658 and #33393.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Sieves.lean [hunk 1]
```diff
@@ -522,7 +522,7 @@ instance : CompleteLattice (Sieve X) where
   le_sInf _ _ hS _ _ hf _ hR := hS _ hR _ hf
   le_sup_left _ _ _ _ := Or.inl
   le_sup_right _ _ _ _ := Or.inr
-  sup_le _ _ _ h₁ h₂ _ f := by--ℰ S hS Y f := by
+  sup_le _ _ _ h₁ h₂ _ f := by --ℰ S hS Y f := by
```
Comment (adomani) [inline Mathlib/CategoryTheory/Sites/Sieves.lean]:
```suggestion
  sup_le _ _ _ h₁ h₂ _ f := by
```
I wonder if this comment should simply be erased.

File: Mathlib/LinearAlgebra/Finsupp/Pi.lean [hunk 2]
```diff
@@ -209,7 +209,7 @@ theorem range_mapRange_linearMap (f : M →ₗ[R] N) (hf : LinearMap.ker f = ⊥
     refine ⟨⟨x.support, y, fun i => ?_⟩, by ext; simp_all⟩
     constructor
     <;> contrapose!
-    <;> simp_all (config := {contextual := true}) [← hy, map_zero, LinearMap.ker_eq_bot'.1 hf]
+    <;> simp_all +contextual [← hy, map_zero, LinearMap.ker_eq_bot'.1 hf]
```
Comment (adomani) [inline Mathlib/LinearAlgebra/Finsupp/Pi.lean:212]: This was probably not flagged by the linter, but I like it!

File: Mathlib/NumberTheory/Dioph.lean [hunk 3]
```diff
@@ -477,7 +477,7 @@ theorem dioph_comp {S : Set (Vector3 ℕ n)} (d : Dioph S) (f : Vector3 ((α →
 
 theorem diophFn_comp {f : Vector3 ℕ n → ℕ} (df : DiophFn f) (g : Vector3 ((α → ℕ) → ℕ) n)
     (dg : VectorAllP DiophFn g) : DiophFn fun v => f fun i => g i v :=
-  dioph_comp ((diophFn_vec _).1 df) ((fun v => v none)::fun i v => g i (v ∘ some)) <| by
+  dioph_comp ((diophFn_vec _).1 df) ((fun v ↦ v none) :: fun i v ↦ g i (v ∘ some)) <| by
```
Comment (adomani) [inline Mathlib/NumberTheory/Dioph.lean:480]: Isn't there a linter for the `mapsto` choice?

**Review by adomani — COMMENTED** [review]
Thanks!  :octopus:

Modulo possibly erasing a leftover comment, this looks an improvement to me!

bors d+

File: Mathlib/LinearAlgebra/Finsupp/Pi.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/LinearAlgebra/Finsupp/Pi.lean:212]: The linter flagged this line, and then I realised how to fix this properly :-)

File: Mathlib/NumberTheory/Dioph.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/NumberTheory/Dioph.lean:480]: We're not linting on that because past consensus was that it would be too much churn to change...

File: Mathlib/CategoryTheory/Sites/Sieves.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/CategoryTheory/Sites/Sieves.lean]: Sure, why not! If somebody misses it, then can bring it back.
